US07728003B2
Step D. 8-Cyclohexyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Bromine (0.15 g, 0.94 mmol) was added to a solution of 8-cyclohexyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.28 g, 0.79 mmol) in dichloromethane (10 mL). After 5 min, the solution was concentrated and the crude residue was redissolved in dichloromethane (10 mL) and diisopropylethylamine (0.42 mL, 2.4 mmol) was added. After 15 h, the reaction mixture was partitioned between water and dichloromethane, the organic layer was separated, dried (MgSO4) and concentrated to provide 0.28 g (87%) of the title compound. Mass Spectrum (LCMS, ESI pos.) Calcd. For C17H21N3O3S: 347.13. found: (M+H) 348.3.

reactant | Bromine | 0.94 mmol, 0.15 g | BrBr | Br2
reactant | 8-cyclohexyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.79 mmol, 0.28 g | C(C)OC(=O)C1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCCC1)=O | C17H23N3O3S
reactant | diisopropylethylamine | 2.4 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8-Cyclohexyl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.28 g, 87% | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCCC1)=O | C17H21N3O3S
